US09034866B2
Synthesis of (R)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-3-((3-methyloxetan-3-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide
Similar to as described in General Procedure E, 10-bromo-3-((3-methyloxetan-3-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was reacted with (R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol to give the titled compound.

reactant | 10-bromo-3-((3-methyloxetan-3-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)CC3(COC3)C)C1 | C19H20BrN3O2
reactant | (R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
product | (R)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-3-((3-methyloxetan-3-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | O[C@@](C#CC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)CC3(COC3)C)C1)(C)C1=NOC(=C1)C | C27H28N4O4
